US07858632B2
To a solution of methyl magnesium bromide (24 mL of a 3M solution in diethyl ether, 72.2 mmol) in anhydrous tetrahydrofuran (20 mL) at 0° C. was added a solution of 2′-hydroxy-6′-methoxyacetophenone (4 g, 24.1 mmol) in anhydrous tetrahydrofuran (40 mL), maintaining the temperature below 11° C. during the addition. After stirring for 1.5 hours at room temperature, a solution of 10% ammonium chloride (30 mL) was added slowly maintaining the temperature below 22° C. with the use of an ice bath. Water (300 mL) was slowly added and the reaction was extracted twice with ethyl acetate. The combined ethyl acetate layers were washed with water, brine, dried using anhydrous sodium sulfate and concentrated to give 2-(1-Hydroxy-1-methyl-ethyl)-3-methoxy-phenol (4.52 g) as pale yellow solid.

reactant | methyl magnesium bromide | C[Mg]Br
reactant | 2′-hydroxy-6′-methoxyacetophenone | 24.1 mmol, 4 g | OC1=C(C(=CC=C1)OC)C(C)=O | C9H10O3
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
reactant | Water | 300 mL | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(1-Hydroxy-1-methyl-ethyl)-3-methoxy-phenol | 4.52 g | OC(C)(C)C1=C(C=CC=C1OC)O | C10H14O3
